Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7][H:8]>>[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.7783418386
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7][C:8]([H:9])[H:10]>>[C:5]#[C:6][C:7][C:8]([H:9])[H:10].[H:1][O:2][C:3][H:4],5.369410625
[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:10]([H:11])([H:12])[H:13],2.05530124387
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12],4.08086899982
[C:1]#[C:2][C:4]([O:3])([H:5])[H:6]>>[C:1]=[C:2]1[O:3][C:4]1([H:5])[H:6],-1.98807235207
[H:1][C:2][O:3][C:4]1[O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.09864791443
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.46808141139
[H:1][C:2]=[C:3]([H:4])[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-1.18489358124
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[O:12][H:13].[H:8],4.9939220792
[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11].[H:1]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11],-3.91380012381
[C:2](=[O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1][C:2]([O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.822932500001
[H:1][C:2][O:3][C@@:4]1([H:5])[O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[C:7](=[O:6])[C:8]([H:9])([H:10])[H:11],-1.2450104119499998
[H:1][O:2][C@:3]([H:4])(/[C:5]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.89169611015
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[O:5][H:6],1.1016268501200002
[C:6]([H:7])[H:8].[O:1]=[C:2]=[C:3][O:4][C:5]>>[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8],-5.08683593989
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.10700297133
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3](=[O:4])[C:9]([H:10])([H:11])[H:12].[C:5]([H:6])([H:7])[H:8],2.8695254191000004
[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.46010190267
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:5],4.80329981301
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8])[C:13]([H:14])([H:15])[H:16],3.67899259086
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-3.69943967212
[H:3].[O:1]=[C:2][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.97517956084
[C:6][C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:8]([H:7])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.5183363365
[C:1][O:2][C:3]#[C:4].[C:5](=[C:6])([H:7])[H:8]>>[C:1][O:2][C:3]#[C:4][C:5]([C:6])([H:7])[H:8],-1.08974380077
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.39978021569
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.96145662327
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.6951997868
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9],-1.77516732473
[H:1][O:2][C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4][O:5][H:6].[H:1][O:2]/[C:3]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],4.28377959439
